US07495004B2
7-(2-Chloro-6-fluorobenzyl)-8-(3-hydroxyphenyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione (88 mg, 0.21 mmol) in 310 μL water was treated with concentrated HCl and then sodium nitrite (19 mg, 0.23 mmol) dissolved in ˜300 μL water. The reaction mixture was stirred at 0° C. for 30 min and then heated to 100° C. for 15 min. The reaction mixture was cooled, dried under reduced pressure, and purified by preparative thin layer chromatography (silica gel, 1 mm plate, EM Science 20×20 cm silica gel 60 F264) eluting with EtOAc:hexane (2:1) to give 37 mg (43% yield) of the title compound as a pale orange solid: 1H NMR (CDCl3, 400 MHz) 7.22-7.16 (m, 1H), 7.12-7.01 (m, 2H), 6.96-6.91 (m, 2H), 6.86-6.81 (m, 1H), 6.80-6.74 (m, 1H), 5.82 (s, 2H), 3.60 (s, 3H), 3.37 (s, 3H); MS (ESP+) m/e 415 (MH+); TLC (EtOAc:hexanes/2:1) Rf=0.41.

reactant | 8-(3-aminophenyl)-7-(2-chloro-6-fluorobenzyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 0.21 mmol, 88 mg | NC=1C=C(C=CC1)C1=NC=2N(C(N(C(C2N1CC1=C(C=CC=C1F)Cl)=O)C)=O)C | C20H17ClFN5O2
reactant | HCl | Cl | ClH
reactant | sodium nitrite | 0.23 mmol, 19 mg | N(=O)[O-].[Na+]
solvent | water | 310 μL | O | H2O
solvent | water | ˜300 μL | O | H2O
product | 7-(2-Chloro-6-fluorobenzyl)-8-(3-hydroxyphenyl)-1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dione | 37 mg, 43% yield | ClC1=C(CN2C(=NC=3N(C(N(C(C23)=O)C)=O)C)C2=CC(=CC=C2)O)C(=CC=C1)F | C20H16ClFN4O3
